2190-02-08 06:18:00 Physician Resident Progress Note
TITLE: CCU Resident Progress Note
   Chief Complaint: cardiogenic shock
   24 Hour Events:
   - renal came by thought that needed CVVH for fluid removal, had femoral
   line placed to for dialysis
   - respiratory status clinically worsening with respiration to 40s
   - urine lytes Urine urea 169, urine creatinine 132, na < assay, urine
   osm 340, FeNa < 1%
   - urine eos were negative
   - urine lytes: feurea 7% all suggestive of pre-renal etiology likely in
   the setting of poor forward flow with cardiogenic
   - patient intubated in the setting of continued tachycardia  and
   worsening respiratory distress: started neosynephrine prophylactically
   prior to intubation to prevent from dropping pressure
   - started on fentayl and versed for sedation
   - patient got succinylcholine, etomidate as well as 2 x 1mg bolus of
   neo during intubation
   - post intubation chest x-ray demonstrates - ett terminate at thoracic
   inlet 4.5cm from carina, ogt in stomach. other lines stable. slightly
   increased peripheral left interstitial markings suggest mild edema.
   .
   Allergies:
   Codeine
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Heparin Sodium - 1,400 units/hour
   Fentanyl - 50 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Norepinephrine - 0.03 mcg/Kg/min
   Calcium Gluconate (CRRT) - 1.4 grams/hour
   Other ICU medications:
   Fentanyl - [**2190-2-7**] 06:33 PM
   Other medications:
   Changes to medical and family history: none
   Review of systems is unchanged from admission except as noted below
   Review of systems: unable to obtain
   Flowsheet Data as of  [**2190-2-8**] 06:06 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.2
C (102.6
   Tcurrent: 37.1
C (98.8
   HR: 102 (93 - 135) bpm
   BP: 106/55(79) {78/45(59) - 116/63(87)} mmHg
   RR: 16 (16 - 40) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 72 Inch
    CVP: 15 (12 - 16)mmHg
   PAP: (65 mmHg) / (33 mmHg)
   CO/CI (Fick): (4.9 L/min) / (2.2 L/min/m2)
   Mixed Venous O2% Sat: 50 - 61
   Total In:
                                                                    613 mL
                                                                    358 mL
   PO:
                                                                    180 mL
   TF:
   IVF:
                                                                    433 mL
                                                                    358 mL
   Blood products:
   Total out:
                                                                    814 mL
                                                                    898 mL
   Urine:
                                                                    670 mL
                                                                     10 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -201 mL
                                                                   -540 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 600 (600 - 650) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 60%
   RSBI Deferred: Hemodynamic Instability
   PIP: 35 cmH2O
   Plateau: 24 cmH2O
   SpO2: 98%
   ABG: 7.32/43/95.[**Numeric Identifier **]/20/-3
   Ve: 8.8 L/min
   PaO2 / FiO2: 160
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   167 K/uL
   9.7 g/dL
   199 mg/dL
   3.6 mg/dL
   20 mEq/L
   5.0 mEq/L
   58 mg/dL
   98 mEq/L
   136 mEq/L
   27.8 %
   9.9 K/uL
        [image002.jpg]
                             [**2190-2-7**]  03:22 PM
                             [**2190-2-7**]  05:07 PM
                             [**2190-2-7**]  05:25 PM
                             [**2190-2-7**]  05:30 PM
                             [**2190-2-7**]  09:21 PM
                             [**2190-2-7**]  10:00 PM
                             [**2190-2-8**]  12:10 AM
                             [**2190-2-8**]  12:29 AM
                             [**2190-2-8**]  04:58 AM
                             [**2190-2-8**]  05:37 AM
   WBC
   12.1
   11.5
   9.9
   Hct
   26.8
   27.4
   27.8
   Plt
   164
   197
   167
   Cr
   3.5
   4.0
   3.6
   TCO2
   30
   30
   27
   26
   23
   Glucose
   195
   198
   274
   192
   199
   Other labs: PT / PTT / INR:16.3/50.8/1.5, CK / CKMB /
   Troponin-T:2777/149/7.31, ALT / AST:37/272, Alk Phos / T Bili:61/0.5,
   Differential-Neuts:87.3 %, Lymph:6.8 %, Mono:5.6 %, Eos:0.1 %, Lactic
   Acid:1.7 mmol/L, Albumin:3.9 g/dL, LDH:618 IU/L, Ca++:8.1 mg/dL,
   Mg++:2.1 mg/dL, PO4:5.8 mg/dL
   Assessment and Plan
   ASSESSMENT AND PLAN: 67 y/o M with PMH of CAD s/p MI, DM,
   hyperlipidemia and recent fall who presents with nausea and vomiting
   and ongoing CP, found to have elevated CE and EKG changes without
   multivessel disease on cardiac catherization.
   .
   # SHOCK: Presented with hypotension, low CI and extremely elevated
   filling pressures, all consistent with cardiogenic shock.  Also cool
   and clamped down on exam.  Etiology possibly hypotension (unclear
   precipitant) leading to global ischemia and poor CO and elevated
   filling pressures. Patient had balloon pump placed during cardiac
   catherization to augment coronary perfusion.  With balloon pump off
   today SBP maintained in 100s.
   - Cont. balloon pump, 1:1 with goal MAP>60
   - levofed to maintain MAP>60
   - Wean levo as tolerated
   .
   # CORONARIES: Patient has a history of CAD, 3VD on cath in [**8-31**].
   Recent NSTEMI in [**8-31**] in setting of acute GIB which was treated
   medically.  Now has significantly elevated biomarkers with associated
   EKG changes with a cath that demonstrates no evidence of acute infarct
   so likely that patient has global hypoperfusion in the setting of
   hypotension.  Stat bedside ECHO shows significantly depressed LV
   function, however did have severe global LV dysfunction on TTE on
   [**Month (only) **].  CK and MB trending up indicative of evolving MI, trop 3.88.
   Patient had balloon pump placed to increase coronary perfusion.
   - cont. ASA, statin, hep drip
   - hold beta blocker in the setting of hypotension
   - monitor on telemetry
   .
   # ARF: Unknown baseline.  Cr at OSH was 1.9.  On arrival patient with
   Cr 2.5 now trended up to 3.6. No known h/o renal disease.  feNa < 1% on
   urine lytes. Etiology includes hypotension, poor forward flow in
   setting of heart failure, cardiogenic shock.  Also received contrast at
   OSH, however suspect that this effect is too early. Patient did not put
   out to lasix drip at maximum doses or Diorel.  Renal was consulted and
   started CVVH in order to remove fluid.
   - continue CVVH for now
   - follow up daily renal recs
   - Renally dose meds
   - Avoid nephrotoxins
   # PUMP:  Has h/o dilated cardiomyopathy, likely ischemic given 3VD on
   cath.  Previous EF 25%. Bedside TTE suggests worsened global LV
   hypokinesis in setting of acute MI.  Had significant pulmonary edema
   requiring intubation.   Has PA catheter to monitor hemodynamics.
   - Monitor I/O with goal -1 liter per day with CVVH.
   - BB on hold given relative hypotension
   - cont aspirin, statin
   - ACE inhibitor on hold in the setting of hypotension and renal failure
   - repeat TTE in am
   - Daily CXR to assess PA cath and balloon location
   .
   # RHYTHM: Sinus rhythm, in the setting of respiratory distress patient
   developed sinus tachycardia to 130s
   - cont. tele
   .
   # Acute liver abnormalities
 patient with LFTs in the 1000s suspect
   secondary to cardiogenic shock.
   - trend LFTs
   - continue pressors to maintain adequate MAP
   -avoid Tylenol
   - consider viral hepatitis serologies although low probability as
   previously normal
   .
   # DM: On 3 oral medications at home.  Received contrast at OSH so
   holding metformin.  In setting of acute illness will hold all oral
   meds.
   - FS qid
   - HISS
   .
   # Anemia: Baseline appears to be in low 30s, was 31.6 in [**2186**].  On
   procrit and iron as outpatient.  Hct slightly below baseline at 29.
   Given h/o recent GIB is at risk for rebleeding.  Repeated iron studies
   here with low iron 14 and elevated ferritin which suggests likely
   anemia of chronic disease rather than solely iron deficiency anemia.
   - Cont to follow [**Hospital1 **]
   - guaiac stools
   - Transfuse <25
   .
   # Hyperlipidemia: On vytorin at home.  In setting of NSTEMI will start
   atorvastatin 80mg. On admission here HDL 36, LDL 56
   - cont atorvastatin
   .
   # Peripheral neuropathy: On gabapentin as outpatient.
   - Restart once stable
   .
   FEN:  OG tube placed yesterday, nutrition consult for TFs
   ACCESS: PIV's x 3 (20g x 2, 18g x 1), L femoral HD line, R femoral PA
   cath
   PROPHYLAXIS:  Hep gtt, PPI given intubated
   CODE: Full, confirmed with wife [**2-7**] (though pt would not want to be
   maintained on lifelong vent)
   CONTACT: Wife [**Name (NI) 4098**] [**Name (NI) 4099**] [**Telephone/Fax (1) 4100**] (H), [**Telephone/Fax (1) 4101**] (C)
   DISPO: CCU for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2190-2-7**] 12:54 AM
   18 Gauge - [**2190-2-7**] 12:55 AM
   IABP line - [**2190-2-7**] 04:50 AM
   PA Catheter - [**2190-2-7**] 04:50 AM
   Sheath - [**2190-2-7**] 05:27 AM
   Dialysis Catheter - [**2190-2-7**] 03:50 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I would add the following remarks:
   Medical Decision Making
   Several major issues:
   1. Cardiogenic shock. On IABP with stable MAP and cardiac index.
   2. Acute renal failure. On CRRT. Follow acid base ad electrolytes
   3. Pulmonary edema: PAD decreasing; Oxygenation adequate on ventilator.
   Overall stable course on maximum support. Limiting factors will be
   renal recovery and cardiac compensation. Will need repeat echo to
   evaluate AS.
   Above discussed extensively with family member, next of [**Doctor First Name **] or health
   care proxy.
   Total time spent on patient care: 45 minutes of critical care time.
   Additional comments:
   Hemodynamic instability, Ventilator
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) **], MD
   on:[**2190-2-8**] 14:15 ------

2190-02-09 06:08:00 Physician Resident Progress Note
TITLE: CCU Progress Note
   Chief Complaint:
   24 Hour Events:
   - SW c/s placed
   - Tube feeds ordered but not given [**1-25**] lack of pump
   - weaned off midazolam drip to boluses PRN
   - Conitnued CVVH with goal output of 200mL/hr
   - Continued AIBP with goal MAP of 60 and CI of 2.0
   - Initially weaned off levophed. Then CI dropped to 1.7 so restarted
   - BCx grew GPC so started on vanco
   - Developed multiple PVCs that were non-perfusing. Was on levophed at
   that time + spike temp of 102.8 with rigors. Switched to vasopressin
   and gave tylenol. PVCs improved. Temp fell to 101.8.
   - Started Zosyn given evolving sepsis
   - Lactate rising from WNL to 2.1 consistent with sepsis
   - PM electrolytes with K of 6.2. Decreased K in CVVH baths and
   followed. K trended down.
   - Persistently acidotic. Increased respiratory rate and pushed pH >7.35
   - Almost no ectopy on vasopressin and MAPs well controlled
   - Continued CVVH with -100mL/hr with stable FiO2. Net negative 1756 for
   [**2190-2-8**]. Minimal UOP.
   Allergies:
   Codeine
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2190-2-8**] 03:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2190-2-9**] 02:39 AM
   Infusions:
   Fentanyl - 50 mcg/hour
   Heparin Sodium - 1,400 units/hour
   Vasopressin - 2.4 units/hour
   Calcium Gluconate (CRRT) - 1.2 grams/hour
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2190-2-8**] 10:00 AM
   Midazolam (Versed) - [**2190-2-8**] 05:15 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2190-2-9**] 05:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.3
C (102.8
   Tcurrent: 37.8
C (100
   HR: 89 (88 - 112) bpm
   BP: 88/53(69) {69/40(56) - 107/56(80)} mmHg
   RR: 16 (16 - 25) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 72 Inch
    CVP: 10 (8 - 17)mmHg
   PAP: (39 mmHg) / (21 mmHg)
   CO/CI (Fick): (4.3 L/min) / (2 L/min/m2)
   Mixed Venous O2% Sat: 42 - 60
   Total In:
                                                                  2,360 mL
                                                                    745 mL
   PO:
   TF:
   IVF:
                                                                  2,220 mL
                                                                    745 mL
   Blood products:
   Total out:
                                                                  4,116 mL
                                                                    883 mL
   Urine:
                                                                     56 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,756 mL
                                                                   -138 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 600 (600 - 600) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: Hemodynamic Instability
   PIP: 24 cmH2O
   Plateau: 23 cmH2O
   Compliance: 33.3 cmH2O/mL
   SpO2: 99%
   ABG: 7.37/38/101/20/-2
   Ve: 9.9 L/min
   PaO2 / FiO2: 202
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   155 K/uL
   8.5 g/dL
   172 mg/dL
   3.3 mg/dL
   20 mEq/L
   5.1 mEq/L
   48 mg/dL
   101 mEq/L
   136 mEq/L
   25.4 %
   10.4 K/uL
        [image002.jpg]
                             [**2190-2-8**]  09:08 AM
                             [**2190-2-8**]  11:30 AM
                             [**2190-2-8**]  01:23 PM
                             [**2190-2-8**]  04:49 PM
                             [**2190-2-8**]  04:51 PM
                             [**2190-2-8**]  04:55 PM
                             [**2190-2-8**]  07:45 PM
                             [**2190-2-8**]  08:02 PM
                             [**2190-2-9**]  02:21 AM
                             [**2190-2-9**]  02:29 AM
   WBC
   9.8
   10.4
   Hct
   29
   31
   33
   25.3
   25.4
   Plt
   153
   155
   Cr
   3.3
   TCO2
   22
   21
   20
   23
   Glucose
   [**Telephone/Fax (3) 4142**]
   Other labs: PT / PTT / INR:16.5/63.2/1.5, CK / CKMB /
   Troponin-T:2777/149/7.31, ALT / AST:2737/4183, Alk Phos / T
   Bili:70/0.8, Differential-Neuts:87.3 %, Lymph:6.8 %, Mono:5.6 %,
   Eos:0.1 %, Lactic Acid:2.2 mmol/L, Albumin:3.2 g/dL, LDH:5796 IU/L,
   Ca++:9.0 mg/dL, Mg++:2.0 mg/dL, PO4:4.3 mg/dL
   Assessment and Plan
   67 y/o M with PMH of CAD s/p MI, DM, hyperlipidemia and recent fall who
   presents with nausea and vomiting and ongoing CP, found to have
   elevated CE and EKG changes without multivessel disease on cardiac
   catherization.
   .
   # CARDIOGENIC SHOCK:
   - Shock picture now is a combination of cardiogenic with
   distributative.
   - Cont. balloon pump, 1:1 with goal MAP>60 and goal CI 2.0, if
   possible, will try to wean down to 2:1 though his MAPS this
     morning are only in the low 60s.
   - Switched levofed to vasopressin [**1-25**] recurrent ventricular ectopy with
   a non-perfusing NSVT, consider adding levophed back if
      needed
   - Cardiogenic shock is complicated by septic shock
   .
   # SEPSIS/BACTEREMIA: Pt with GPC bacteremia as of [**2190-2-8**]. Once off
   levophed PVR < WNL consistent with a distributive shock. Given ongoing
   bacteremia there is likely a component of septic shock.
   - Continue screening BCx until cleared
   - Empiric vanco + pip/tazo dosed for CVVH
   - Investigate sources for infection. Has thrombophlebitis on R hand. ?
   Aspiration PNA. Lines are new but may be source of infection. Will try
   and get PA line out.
   - Tylenol PRN for now to control temp and reduce drive for tachycardia
   and ectopy
   .
   # VENTILATOR ASSOCIATED PNEUMONIA:
   Ongoing Respiratory distress: Pt with rib fractures from fall +
   pulmonary edema from acute systolic CHF. Intubated [**1-25**] respiratory
   distress and tiring from effort. Now with left sided infiltrate and
   sputum with GNR, GPC, and GN Dip
   - Continue intubation for now
   - Continue to pull off fluid with CVVH
   - Extubate as soon as possible once volume status controlled.
   .
   # Acute hepatitis
 patient with LFTs in the 1000s suspect  secondary
   to cardiogenic shock.
   - trend LFTs, improving
   - continue pressors to maintain adequate MAP
   - low dose Tylenol for fever
   ..
   # Acute Kidney Injury: Unknown baseline.  Cr at OSH was 1.9.  On
   arrival patient with Cr 2.5 now trended up to 3.6. No known h/o renal
   disease.  feNa < 1% on urine lytes. Etiology includes hypotension, poor
   forward flow in setting of heart failure, cardiogenic shock.  Renal was
   consulted and started CVVH in order to remove fluid.
   - continue CVVH for now
   - follow up daily renal recs
   - Renally dose meds
   - Avoid nephrotoxins
   .
   # CORONARIES: Patient has a history of CAD, 3VD on cath in [**8-31**].
   Recent NSTEMI in [**8-31**] in setting of acute GIB which was treated
   medically.  Now has significantly elevated biomarkers with associated
   EKG changes with a cath that demonstrates no evidence of acute infarct
   so likely that patient has global hypoperfusion in the setting of
   hypotension.  Stat bedside ECHO shows significantly depressed LV
   function, however did have severe global LV dysfunction on TTE on
   [**Month (only) **].  CK and MB trending up indicative of evolving MI, trop 3.88.
   Patient had balloon pump placed to increase coronary perfusion.
   - cont. ASA, statin, hep drip
   - hold beta blocker in the setting of hypotension
   - monitor on telemetry
   .
   # PUMP:  Has h/o dilated cardiomyopathy, likely ischemic given 3VD on
   cath.  Previous EF 25%. Bedside TTE suggests worsened global LV
   hypokinesis in setting of acute MI.  Had significant pulmonary edema
   requiring intubation.   Has PA catheter to monitor hemodynamics.
   - Monitor I/O with goal -100mL/hr with CVVH.
   - BB on hold given relative hypotension
   - cont aspirin, statin
   - ACE inhibitor on hold in the setting of hypotension and renal failure
   - repeat TTE pending to assess cardiac function (planned for today)
   - Daily CXR to assess PA cath and balloon location
   .
   # RHYTHM: Sinus rhythm, in the setting of respiratory distress patient
   developed sinus tachycardia to 130s
   - cont. tele, less ectopy.
   .
   # DM: On 3 oral medications at home.  Received contrast at OSH so
   holding metformin.  In setting of acute illness will hold all oral
   meds.
   - FS qid
   - HISS
   .
   # ANEMIA (CKD): Baseline appears to be in low 30s, was 31.6 in [**2186**].
   On procrit and iron as outpatient.  Hct slightly below baseline at 29.
   Given h/o recent GIB is at risk for rebleeding.  Repeated iron studies
   here with low iron 14 and elevated ferritin which suggests likely
   anemia of chronic disease rather than solely iron deficiency anemia.
   - Cont to follow [**Hospital1 **]
   - guaiac stools
   - Transfuse this morning (<25)
   .
   # Hyperlipidemia: On vytorin at home.  In setting of NSTEMI will start
   atorvastatin 80mg. On admission here HDL 36, LDL 56
   - cont atorvastatin
   .
   # Peripheral neuropathy: On gabapentin as outpatient.
   - Restart once stable
   .
   FEN:  OG tube placed yesterday, nutrition consult for TFs
   ACCESS: PIV's x 3 (20g x 2, 18g x 1), L femoral HD line, R femoral PA
   cath
   PROPHYLAXIS:  Hep gtt, PPI given intubated
   CODE: Full, confirmed with wife [**2-7**] (though pt would not want to be
   maintained on lifelong vent)
   CONTACT: Wife [**Name (NI) 4098**] [**Name (NI) 4099**] [**Telephone/Fax (1) 4100**] (H), [**Telephone/Fax (1) 4101**] (C)
   DISPO: CCU for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2190-2-7**] 12:55 AM
   IABP line - [**2190-2-7**] 04:50 AM
   PA Catheter - [**2190-2-7**] 04:50 AM
   Sheath - [**2190-2-7**] 05:27 AM
   Dialysis Catheter - [**2190-2-7**] 03:50 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:
   ------ Protected Section ------
   I have seen and examined patient today and discussed with team at
   length.  Note above reflects my opinion including H, PE, A, and Plan.
   I have spent 45 minutes administering critical care to patient
   (intubated, CHF, shock, sepsis).
   ------ Protected Section Addendum Entered By:[**Name (NI) 3213**] [**Name (NI) 862**]  on:[**2190-2-9**]
   11:46 ------

2190-02-10 06:51:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - ID recs: switch from Zosyn to Levofloxacin for better coverage of
   Moraxella Catarrhalis in sputum, continue Vanc, add Gentamycin for
   synergistic effect in case endocarditis. Also daily BCx x2, TEE to r/o
   endocarditis when able (not ordered yet)
   - RIJ placed. During this pt had small run of V-tach with rate 110s,
   improved after carotid massage to 70s. Likely related to guidewire
   removal.
   - Renal replaced L femoral CVVH line with L IJ. Line was short, so will
   be exchanged today.
   - R femoral Swann-Ganz and sheath removed, as well as L femoral CVVH
   line
   - Heparin resumed while on 1:2
   - Low-dose Dopamine had been added to Vasopressin for BP support.
   Planned to wean off IABP then pressors, but overnight at 3:45a had a
   ~20min run of V-tach with HR in 60s, MAPS down to 60s, lytes were wnl.
   Pt was sleeping at the time. IABP was switched back to 1:1 for
   improvement of MAPS. Responded to carotid massage with return of sinus
   rhythm, HR back down to 70s, MAPS up to 70s-80s.
   - Micro lab says Staph sensitivities will return in am
   - Pt received 1 unit pRBC without incident, post-transfusion crit 26.3
   from 24.4, now this am down to 25.8
   - Repeat ECHO not done yet
   - Vanc trough pending for am
   Allergies:
   Codeine
   Unknown;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2190-2-9**] 12:00 PM
   Vancomycin - [**2190-2-9**] 02:50 PM
   Gentamicin - [**2190-2-9**] 09:00 PM
   Levofloxacin - [**2190-2-9**] 09:55 PM
   Infusions:
   Heparin Sodium - 1,600 units/hour
   Vasopressin - 2.4 units/hour
   Fentanyl - 50 mcg/hour
   Calcium Gluconate (CRRT) - 1.2 grams/hour
   Other ICU medications:
   Midazolam (Versed) - [**2190-2-9**] 06:30 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2190-2-10**] 06:47 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 37.2
C (99
   HR: 83 (76 - 107) bpm
   BP: 77/47(60) {61/28(44) - 116/58(84)} mmHg
   RR: 16 (16 - 23) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 72 Inch
    CVP: 8 (7 - 15)mmHg
   PAP: (49 mmHg) / (23 mmHg)
   CO/CI (Fick): (4.3 L/min) / (1.9 L/min/m2)
   Mixed Venous O2% Sat: 42 - 42
   Total In:
                                                                  3,367 mL
                                                                    571 mL
   PO:
   TF:
                                                                    215 mL
                                                                     93 mL
   IVF:
                                                                  2,776 mL
                                                                    477 mL
   Blood products:
                                                                    276 mL
   Total out:
                                                                  2,867 mL
                                                                    288 mL
   Urine:
                                                                    203 mL
                                                                     85 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    500 mL
                                                                    283 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 600 (600 - 600) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: Hemodynamic Instability
   PIP: 24 cmH2O
   Plateau: 21 cmH2O
   Compliance: 37.5 cmH2O/mL
   SpO2: 98%
   ABG: 7.42/37/84.[**Numeric Identifier 1132**]/21/0
   Ve: 9.6 L/min
   PaO2 / FiO2: 210
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   134 K/uL
   9.1 g/dL
   232 mg/dL
   2.3 mg/dL
   21 mEq/L
   4.2 mEq/L
   44 mg/dL
   97 mEq/L
   131 mEq/L
   25.8 %
   12.4 K/uL
        [image002.jpg]
                             [**2190-2-9**]  02:21 AM
                             [**2190-2-9**]  02:29 AM
                             [**2190-2-9**]  08:43 AM
                             [**2190-2-9**]  09:24 AM
                             [**2190-2-9**]  02:20 PM
                             [**2190-2-9**]  02:47 PM
                             [**2190-2-9**]  10:32 PM
                             [**2190-2-9**]  10:45 PM
                             [**2190-2-10**]  03:10 AM
                             [**2190-2-10**]  03:27 AM
   WBC
   10.4
   10.5
   10.7
   11.7
   12.4
   Hct
   25.4
   24.7
   24.4
   26.3
   25.8
   Plt
   155
   141
   133
   127
   134
   Cr
   3.3
   3.1
   3.0
   2.6
   2.3
   TropT
   13.50
   TCO2
   23
   23
   26
   25
   25
   Glucose
   172
   197
   183
   200
   232
   Other labs: PT / PTT / INR:14.8/58.7/1.3, CK / CKMB /
   Troponin-T:1151/17/13.50, ALT / AST:1482/764, Alk Phos / T Bili:78/1.1,
   Differential-Neuts:84.0 %, Band:5.0 %, Lymph:2.0 %, Mono:4.0 %, Eos:0.0
   %, Lactic Acid:1.9 mmol/L, Albumin:2.6 g/dL, LDH:1186 IU/L, Ca++:8.6
   mg/dL, Mg++:1.9 mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
   67 y/o M with PMH of CAD s/p MI, DM, hyperlipidemia and recent fall who
   presents with nausea and vomiting and ongoing CP, found to have
   elevated CE and EKG changes without multivessel disease on cardiac
   catherization.
   .
   # CARDIOGENIC SHOCK:
   - Shock picture now is a combination of cardiogenic with
   distributative.
   - Cont. balloon pump, 1:1 with goal MAP>60 and goal CI 2.0, if
   possible, will try to wean down to 2:1 though his MAPS this
     morning are only in the low 60s.
   - Switched levofed to vasopressin [**1-25**] recurrent ventricular ectopy with
   a non-perfusing NSVT, consider adding levophed back if
      needed
   - Cardiogenic shock is complicated by septic shock
   .
   # SEPSIS/BACTEREMIA: Pt with GPC bacteremia as of [**2190-2-8**]. Once off
   levophed PVR < WNL consistent with a distributive shock. Given ongoing
   bacteremia there is likely a component of septic shock.
   - Continue screening BCx until cleared
   - Empiric vanco + pip/tazo dosed for CVVH
   - Investigate sources for infection. Has thrombophlebitis on R hand. ?
   Aspiration PNA. Lines are new but may be source of infection. Will try
   and get PA line out.
   - Tylenol PRN for now to control temp and reduce drive for tachycardia
   and ectopy
   .
   # VENTILATOR ASSOCIATED PNEUMONIA:
   Ongoing Respiratory distress: Pt with rib fractures from fall +
   pulmonary edema from acute systolic CHF. Intubated [**1-25**] respiratory
   distress and tiring from effort. Now with left sided infiltrate and
   sputum with GNR, GPC, and GN Dip
   - Continue intubation for now
   - Continue to pull off fluid with CVVH
   - Extubate as soon as possible once volume status controlled.
   .
   # Acute hepatitis
 patient with LFTs in the 1000s suspect  secondary
   to cardiogenic shock.
   - trend LFTs, improving
   - continue pressors to maintain adequate MAP
   - low dose Tylenol for fever
   ..
   # Acute Kidney Injury: Unknown baseline.  Cr at OSH was 1.9.  On
   arrival patient with Cr 2.5 now trended up to 3.6. No known h/o renal
   disease.  feNa < 1% on urine lytes. Etiology includes hypotension, poor
   forward flow in setting of heart failure, cardiogenic shock.  Renal was
   consulted and started CVVH in order to remove fluid.
   - continue CVVH for now
   - follow up daily renal recs
   - Renally dose meds
   - Avoid nephrotoxins
   .
   # CORONARIES: Patient has a history of CAD, 3VD on cath in [**8-31**].
   Recent NSTEMI in [**8-31**] in setting of acute GIB which was treated
   medically.  Now has significantly elevated biomarkers with associated
   EKG changes with a cath that demonstrates no evidence of acute infarct
   so likely that patient has global hypoperfusion in the setting of
   hypotension.  Stat bedside ECHO shows significantly depressed LV
   function, however did have severe global LV dysfunction on TTE on
   [**Month (only) **].  CK and MB trending up indicative of evolving MI, trop 3.88.
   Patient had balloon pump placed to increase coronary perfusion.
   - cont. ASA, statin, hep drip
   - hold beta blocker in the setting of hypotension
   - monitor on telemetry
   .
   # PUMP:  Has h/o dilated cardiomyopathy, likely ischemic given 3VD on
   cath.  Previous EF 25%. Bedside TTE suggests worsened global LV
   hypokinesis in setting of acute MI.  Had significant pulmonary edema
   requiring intubation.   Has PA catheter to monitor hemodynamics.
   - Monitor I/O with goal -100mL/hr with CVVH.
   - BB on hold given relative hypotension
   - cont aspirin, statin
   - ACE inhibitor on hold in the setting of hypotension and renal failure
   - repeat TTE pending to assess cardiac function (planned for today)
   - Daily CXR to assess PA cath and balloon location
   .
   # RHYTHM: Sinus rhythm, in the setting of respiratory distress patient
   developed sinus tachycardia to 130s
   - cont. tele, less ectopy.
   .
   # DM: On 3 oral medications at home.  Received contrast at OSH so
   holding metformin.  In setting of acute illness will hold all oral
   meds.
   - FS qid
   - HISS
   .
   # ANEMIA (CKD): Baseline appears to be in low 30s, was 31.6 in [**2186**].
   On procrit and iron as outpatient.  Hct slightly below baseline at 29.
   Given h/o recent GIB is at risk for rebleeding.  Repeated iron studies
   here with low iron 14 and elevated ferritin which suggests likely
   anemia of chronic disease rather than solely iron deficiency anemia.
   - Cont to follow [**Hospital1 **]
   - guaiac stools
   - Transfuse this morning (<25)
   .
   # Hyperlipidemia: On vytorin at home.  In setting of NSTEMI will start
   atorvastatin 80mg. On admission here HDL 36, LDL 56
   - cont atorvastatin
   .
   # Peripheral neuropathy: On gabapentin as outpatient.
   - Restart once stable
   .
   FEN:  OG tube placed yesterday, nutrition consult for TFs
   ACCESS: PIV's x 3 (20g x 2, 18g x 1), L femoral HD line, R femoral PA
   cath
   PROPHYLAXIS:  Hep gtt, PPI given intubated
   CODE: Full, confirmed with wife [**2-7**] (though pt would not want to be
   maintained on lifelong vent)
   CONTACT: Wife [**Name (NI) 4098**] [**Name (NI) 4099**] [**Telephone/Fax (1) 4100**] (H), [**Telephone/Fax (1) 4101**] (C)
   DISPO: CCU for now
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2190-2-9**] 09:30 PM 20 mL/hour
   Glycemic Control:
   Lines:
   18 Gauge - [**2190-2-7**] 12:55 AM
   IABP line - [**2190-2-7**] 04:50 AM
   Sheath - [**2190-2-7**] 05:27 AM
   Multi Lumen - [**2190-2-9**] 04:37 PM
   Dialysis Catheter - [**2190-2-9**] 06:52 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2190-02-11 06:39:00 Physician Resident Progress Note
TITLE: CCU Resident Progress Note
   Chief Complaint: sepsis
   24 Hour Events:
   - FS glucose 414. Gave 21U humalog and increased SS
   - issues with dialysis line working, renal advanced line over wire and
   line began to work
   - spoke with ID, plan to change antibiotics from Vancomycin to
   Nafcillin, continue gentamicin and levoquin for now
   - pharmacy initially concerned with Nafcillin dosing - based on
   abnormal liver function tests thought that dose should be cut in half,
   however discussed with [**Doctor First Name **] and [**Last Name (un) **] and decided to keep current dose
   where it is
   - started patient on glargine 10 units at bedtime as well as increased
   insulin sliding scale for eleavted glucose
   - initial plan to place an arterial line however RN felt like patient
   had been through a lot already today and was getting good readings with
   manual blood pressure cuff so decided to defer and readdress tomorrow,
   discuss with [**First Name8 (NamePattern2) **] [**Male First Name (un) **] who was fine with this
   - ordered for blood tranfusion with repeat crit 23.5
   - balloon pump was discontinued
   - ET tube was advanced and chest x-ray repeated: which demonstrated:
   - cath tip was cultured and demonstrated coag + staph, other cultures
   unchanged from previous
   - echo still not done today
   - repeat chest x-ray PM not read but per our read ET tube 4 cm above
   carina so did not advance
   - will do pressure support trial in the AM (deferred this evening as
   trouble earlier with CVVH machine which is working better now)
   Allergies:
   Codeine
   Unknown;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2190-2-9**] 12:00 PM
   Vancomycin - [**2190-2-9**] 02:50 PM
   Levofloxacin - [**2190-2-9**] 09:55 PM
   Gentamicin - [**2190-2-11**] 02:00 AM
   Nafcillin - [**2190-2-11**] 02:00 AM
   Infusions:
   Vasopressin - 2.4 units/hour
   Fentanyl - 25 mcg/hour
   Heparin Sodium - 1,600 units/hour
   Other ICU medications:
   Midazolam (Versed) - [**2190-2-11**] 06:00 AM
   Other medications:
   Changes to medical and family history: none
   Review of systems is unchanged from admission except as noted below
   Review of systems: unable to obtain
   Flowsheet Data as of  [**2190-2-11**] 06:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.6
C (101.4
   Tcurrent: 37.3
C (99.2
   HR: 94 (76 - 99) bpm
   BP: 100/49(57) {77/47(55) - 106/70(79)} mmHg
   RR: 27 (16 - 27) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 72 Inch
    CVP: 6 (4 - 11)mmHg
   Total In:
                                                                  3,249 mL
                                                                  1,158 mL
   PO:
   TF:
                                                                    535 mL
                                                                    190 mL
   IVF:
                                                                  2,347 mL
                                                                    930 mL
   Blood products:
                                                                    338 mL
                                                                     38 mL
   Total out:
                                                                  1,468 mL
                                                                    437 mL
   Urine:
                                                                    546 mL
                                                                     87 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,781 mL
                                                                    721 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 600 (600 - 600) mL
   Vt (Spontaneous): 229 (229 - 229) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 86
   PIP: 25 cmH2O
   Plateau: 21 cmH2O
   Compliance: 37.5 cmH2O/mL
   SpO2: 100%
   ABG: ///24/
   Ve: 9.3 L/min
   Physical Examination
   General Appearance: No acute distress, intubated, sedated
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Lymphatic: Cervical WNL
   Cardiovascular: Regular rhythm (PMI Hyperdynamic), (S1: Normal), (S2:
   Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Abdominal: Soft, non-tender, bowel sounds present
   Extremities: Right: Trace, Left: Trace
   Skin:  Warm
   Neurologic: Follows simple commands, Responds to: Verbal stimuli,
   Movement: Not assessed, Sedated, Tone: Not assessed, moves all 4
   extremities
   Neck: RIJ in place c/di.  LIJ also in place also c/d/i.
   Labs / Radiology
   105 K/uL
   8.7 g/dL
   307 mg/dL
   2.1 mg/dL
   24 mEq/L
   4.4 mEq/L
   47 mg/dL
   98 mEq/L
   132 mEq/L
   25.4 %
   17.7 K/uL
        [image002.jpg]
                             [**2190-2-9**]  02:20 PM
                             [**2190-2-9**]  02:47 PM
                             [**2190-2-9**]  10:32 PM
                             [**2190-2-9**]  10:45 PM
                             [**2190-2-10**]  03:10 AM
                             [**2190-2-10**]  03:27 AM
                             [**2190-2-10**]  12:36 PM
                             [**2190-2-10**]  09:48 PM
                             [**2190-2-10**]  10:03 PM
                             [**2190-2-11**]  02:39 AM
   WBC
   10.7
   11.7
   12.4
   12.1
   17.7
   Hct
   24.4
   26.3
   25.8
   23.5
   25.4
   Plt
   133
   127
   134
   107
   105
   Cr
   3.0
   2.6
   2.3
   2.5
   2.1
   2.1
   TCO2
   26
   25
   25
   Glucose
   183
   200
   232
   [**Telephone/Fax (3) 4206**]
   307
   Other labs: PT / PTT / INR:14.3/78.8/1.2, CK / CKMB /
   Troponin-T:1151/17/13.50, ALT / AST:1052/355, Alk Phos / T
   Bili:156/2.5, Differential-Neuts:84.0 %, Band:5.0 %, Lymph:2.0 %,
   Mono:4.0 %, Eos:0.0 %, Lactic Acid:1.8 mmol/L, Albumin:2.6 g/dL,
   LDH:812 IU/L, Ca++:10.1 mg/dL, Mg++:2.6 mg/dL, PO4:2.3 mg/dL
   Assessment and Plan
   67 y/o M with PMH of CAD s/p MI, DM, hyperlipidemia and recent fall who
   presents with nausea and vomiting and ongoing CP, found to have
   elevated CE and EKG changes without multivessel disease on cardiac
   catherization now with cardiogenic and septic shock
   .
   # CARDIOGENIC SHOCK:  IABP d/c
d on [**2-10**].
   - Shock picture now is a combination of cardiogenic with
   distributative.  Needs Aline to be placed.
   - Patient only maintained on low dose Vasopressin. Goal MAPs >60.  Will
   attempt to wean vasopressin today.
   - unable to run patient more negative given borderline blood pressures
   on CVVH
   .
   # SEPSIS/BACTEREMIA: Coag + S. aureus bacteremia as of [**2190-2-8**].
   Febrile overnight with elevated WBC count.
   - Continue daily surveillance blood cultures
   - switched vanco to nafcillin yesterday as per ID with sensitivies
   Will d/w ID re temps, WBC count.
   - Continue low dose gent dosed for CVVH
   - Continue levaquin for Morexella in sputum
   - Appreciate ID recs
   - Lines changed [**2-9**] with HD line changed and PA sheath pulled.
   - weaned off IABP [**2-10**]
   - Tylenol PRN for now to control temp and reduce drive for tachycardia
   and ectopy
   .
   # PNEUMONIA: ? Community acquired given moraxella.
   Ongoing Respiratory distress: Pt with rib fractures from fall +
   pulmonary edema from acute systolic CHF. Intubated [**1-25**] respiratory
   distress and tiring from effort. Now with left sided infiltrate and
   sputum with GNR, GPC, and GN Dip
   - Continue intubation for now
 was unable to do pressure support trial
   yesterday will try today, check RISBI in am
   - Continue to pull off fluid with CVVH.
   - Extubate as soon as possible once volume status controlled.
   - Continue Nafcillin/levo/gentamicin per ID recs
   - Will try 60mg IV lasix today.
   .
   # Acute hepatitis
 patient with LFTs in the 1000s suspect  secondary
   to cardiogenic shock which continue to improve.
   - trend LFTs, improving
   - continue pressors to maintain adequate MAP
 wean today.
   - low dose Tylenol for fever
   ..
   # Acute Kidney Injury: Unknown baseline.  Cr at OSH was 1.9.  On
   arrival patient with Cr 2.5 now trended up to 3.6, now improved on
   CVVH. No known h/o renal disease.  feNa < 1% on urine lytes. Etiology
   includes hypotension, poor forward flow in setting of heart failure,
   cardiogenic shock.  Renal was consulted and started CVVH in order to
   remove fluid.
   - continue CVVH for now.  Per renal plan to continue CVVH until UOP
   1000cc/day.
   - follow up daily renal recs
   - Renally dose meds
   - Avoid nephrotoxins
   .
   # CORONARIES: Patient has a history of CAD, 3VD on cath in [**8-31**].
   Recent NSTEMI in [**8-31**] in setting of acute GIB which was treated
   medically.  Now has significantly elevated biomarkers with associated
   EKG changes with a cath that demonstrates no evidence of acute infarct
   so likely that patient has global hypoperfusion in the setting of
   hypotension.  Stat bedside ECHO shows significantly depressed LV
   function, however did have severe global LV dysfunction on TTE on
   [**Month (only) **].  CK and MB trending up indicative of evolving MI, trop 3.88.
   Patient had balloon pump placed to increase coronary perfusion.
   - cont. ASA, statin, hep drip
   - hold beta blocker in the setting of hypotension
   - monitor on telemetry
   .
   # PUMP:  Has h/o dilated cardiomyopathy, likely ischemic given 3VD on
   cath.  Previous EF 25%. Bedside TTE suggests worsened global LV
   hypokinesis in setting of acute MI.  Had significant pulmonary edema
   requiring intubation.   - Monitor I/O with goal -100mL/hr with CVVH.
   - BB on hold given relative hypotension
   - cont aspirin, statin
   - ACE inhibitor on hold in the setting of hypotension and renal failure
   .
   # RHYTHM: Sinus rhythm, in the setting of respiratory distress patient
   developed sinus tachycardia to 130s
   - cont. tele, less ectopy.
   .
   # DM: On 3 oral medications at home.  Received contrast at OSH so
   holding metformin.  In setting of acute illness will hold all oral
   meds.  Patient has had has elevated fingersticks.  Started patient on
   long acting Lantus yesterday and increased sliding scale.  BGs 400
   today.
   - Will need to start insulin gtt for better BG control today with q1H
   finger sticks.
   - FS qid
   - HISS
   .
   # ANEMIA (CKD): Baseline appears to be in low 30s, was 31.6 in [**2186**].
   On procrit and iron as outpatient.  Hct slightly below baseline at 29.
   Given h/o recent GIB is at risk for rebleeding.  Repeated iron studies
   here with low iron 14 and elevated ferritin which suggests likely
   anemia of chronic disease rather than solely iron deficiency anemia.
   Patient got 1 unit of blood yesterday without appropriate bump in
   hematocrit.
   - Cont to follow [**Hospital1 **]
   - guaiac stools.  Negative so far.
   - Transfuse for HCT <25.
   .
   # Hyperlipidemia: On vytorin at home.  In setting of NSTEMI will start
   atorvastatin 80mg. On admission here HDL 36, LDL 56
   - cont atorvastatin
   .
   # Peripheral neuropathy: On gabapentin as outpatient.
   - Restart once stable
   .
   FEN:  OG tube placed yesterday, TFs at goal.
   ACCESS: PIV's x 3 (20g x 2, 18g x 1), L IJ HD line, R IJ.  Needs Aline
   placed.
   PROPHYLAXIS:  Hep gtt, PPI given intubated
   CODE: Full, confirmed with wife [**2-7**] (though pt would not want to be
   maintained on lifelong vent)
   CONTACT: Wife [**Name (NI) 4098**] [**Name (NI) 4099**] [**Telephone/Fax (1) 4100**] (H), [**Telephone/Fax (1) 4101**] (C)
   DISPO: CCU for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2190-2-7**] 12:55 AM
   Multi Lumen - [**2190-2-9**] 04:37 PM
   Dialysis Catheter - [**2190-2-9**] 06:52 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:  CCU for now.
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I would add the following remarks:
   History
   nothing to add, agree with above
   Physical Examination
   nothing to add, agree with above
   Medical Decision Making
   nothing to add, agree with above
   Total time spent on patient care: 60 minutes of critical care time.
   ------ Protected Section Addendum Entered By:[**Name (NI) 3213**] [**Name (NI) 862**]  on:[**2190-2-11**]
   10:31 ------

2190-02-12 06:00:00 Physician Resident Progress Note
TITLE: CCU Progress Note
   Chief Complaint:
   24 Hour Events:
   - Changed to insulin drip with better glycemic control
   - Catheter tip grew MSSA
   - ECHO showed EF 14% with a dilated left ventricle with severe global
   and regional systolic dysfunction, c/w multivessel CAD including a
   prior extensive inferior wall infarction. Mild right ventricular
   systolic dysfunction. Aortic stenosis, probably moderate. Mild aortic
   regurgitation. Moderate to severe mitral regurgitation. Mild pulmonary
   hypertension. Dilated aortic root.
   - Aline placed after several attempts
   - Initially weaned off vasopressin but MAPS in the 50s. Started
   dopamine 2.5 with improved MAPS
   - Held off on CVVH filtration and tried Lasix 40mg IVx1 with minimal
   UOP
   - Attempted pressure support ventilation but Pt became agitated and
   tachypneic
   - CVPs dropped to 3 with also lower MAPs and BP. Held off on
   ultrafiltration
   - Running even given low CVP
   - Rising WBC. Concerning for Cdiff versus need to broaden Abx
   - Switched to midazolam drip for better sedation and improved liver
   function
   - PLT falling. Now 117 from 183 on admission
   - BCx still coming up positive concerning for endocarditis. TEE
   tomorrow (Friday). NPO after MN
 ARTERIAL LINE - START [**2190-2-11**] 06:00 PM
 SPUTUM CULTURE - At [**2190-2-11**] 11:00 PM
   Allergies:
   Codeine
   Unknown;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2190-2-9**] 12:00 PM
   Vancomycin - [**2190-2-9**] 02:50 PM
   Levofloxacin - [**2190-2-11**] 11:00 PM
   Nafcillin - [**2190-2-12**] 02:00 AM
   Gentamicin - [**2190-2-12**] 05:00 AM
   Infusions:
   Fentanyl - 25 mcg/hour
   Dopamine - 2.5 mcg/Kg/min
   Calcium Gluconate (CRRT) - 1.4 grams/hour
   Heparin Sodium - 1,600 units/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2190-2-11**] 12:00 PM
   Midazolam (Versed) - [**2190-2-12**] 05:40 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2190-2-12**] 05:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 36.2
C (97.2
   HR: 83 (71 - 95) bpm
   BP: 88/50(62) {84/46(50) - 120/61(78)} mmHg
   RR: 19 (16 - 27) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 72 Inch
    CVP: 4 (2 - 12)mmHg
   Total In:
                                                                  4,533 mL
                                                                    838 mL
   PO:
   TF:
                                                                    785 mL
   IVF:
                                                                  3,610 mL
                                                                    838 mL
   Blood products:
                                                                     38 mL
   Total out:
                                                                  3,892 mL
                                                                    829 mL
   Urine:
                                                                    371 mL
                                                                    105 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    641 mL
                                                                      9 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 600 (600 - 600) mL
   Vt (Spontaneous): 480 (480 - 480) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 58
   PIP: 18 cmH2O
   Plateau: 20 cmH2O
   SpO2: 100%
   ABG: 7.37/37/121/19/-3
   Ve: 12.5 L/min
   PaO2 / FiO2: 303
   Physical Examination
   General Appearance: No acute distress, intubated, sedated
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Lymphatic: Cervical WNL
   Cardiovascular: Regular rhythm (PMI Hyperdynamic), (S1: Normal), (S2:
   Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Abdominal: Soft, non-tender, bowel sounds present
   Extremities: Right: Trace, Left: Trace. L A-line
   Skin:  Warm
   Neurologic: Follows simple commands, Responds to: Verbal stimuli,
   Movement: Not assessed, Sedated, Tone: Not assessed, moves all 4
   extremities
   Neck: RIJ in place c/di.  LIJ also in place also c/d/i.
   Labs / Radiology
   117 K/uL
   9.7 g/dL
   81 mg/dL
   1.7 mg/dL
   19 mEq/L
   3.7 mEq/L
   36 mg/dL
   102 mEq/L
   134 mEq/L
   28.1 %
   25.9 K/uL
        [image002.jpg]
                             [**2190-2-10**]  09:48 PM
                             [**2190-2-10**]  10:03 PM
                             [**2190-2-11**]  02:39 AM
                             [**2190-2-11**]  08:59 AM
                             [**2190-2-11**]  02:57 PM
                             [**2190-2-11**]  04:43 PM
                             [**2190-2-11**]  09:42 PM
                             [**2190-2-11**]  09:59 PM
                             [**2190-2-12**]  04:09 AM
                             [**2190-2-12**]  04:46 AM
   WBC
   17.7
   18.9
   25.9
   Hct
   25.4
   24.8
   28.1
   Plt
   105
   106
   117
   Cr
   2.1
   2.1
   1.9
   1.9
   1.7
   TCO2
   27
   24
   22
   Glucose
   [**Telephone/Fax (3) 4243**]11
   168
   98
   81
   Other labs: PT / PTT / INR:14.4/65.7/1.3, CK / CKMB /
   Troponin-T:1151/17/13.50, ALT / AST:1052/185, Alk Phos / T
   Bili:213/4.1, Differential-Neuts:84.0 %, Band:5.0 %, Lymph:2.0 %,
   Mono:4.0 %, Eos:0.0 %, Lactic Acid:1.2 mmol/L, Albumin:2.5 g/dL,
   LDH:663 IU/L, Ca++:8.9 mg/dL, Mg++:2.4 mg/dL, PO4:1.4 mg/dL
   Assessment and Plan
   67 y/o M with PMH of CAD s/p MI, DM, hyperlipidemia and recent fall who
   presents with nausea and vomiting and ongoing CP, found to have
   elevated CE and EKG changes without multivessel disease on cardiac
   catherization now with cardiogenic and septic shock
   .
   # CARDIOGENIC SHOCK:  IABP d/c
d on [**2-10**].
   - Shock picture now is a combination of cardiogenic with
   distributative.
   - Patient only maintained on low dose dopamine with MAPs >60.  Now off
   vasopressin
   - Low CVP and clinically dry so running even now
   - Consider stopped CVVH today and following volume status and
   electrolytes
   .
   # SEPSIS/BACTEREMIA: Coag + S. aureus bacteremia as of [**2190-2-8**].
   Febrile overnight with elevated WBC count.
   - Continue daily surveillance blood cultures
   - switched vanco to nafcillin yesterday as per ID with sensitivies
   Will d/w ID re temps, WBC count.
   - Continue low dose gent dosed for CVVH
   - Continue levaquin for Morexella in sputum
   - Appreciate ID recs
   - Lines changed [**2-9**] with HD line changed and PA sheath pulled.
   - weaned off IABP [**2-10**]
   - Tylenol PRN for now to control temp and reduce drive for tachycardia
   and ectopy
   - Rising WBC overnight. Diff pending. Consider broadening ABx
   - Given ongoing bacteremia, concern for endocarditis. TEE today. Was
   made NPO after MN.
   .
   # PNEUMONIA: ? Community acquired given moraxella.
   Ongoing Respiratory distress: Pt with rib fractures from fall +
   pulmonary edema from acute systolic CHF. Intubated [**1-25**] respiratory
   distress and tiring from effort. Now with left sided infiltrate and
   sputum with GNR, GPC, and GN Dip
   - Continue intubation for now
 was unable to do pressure support trial
   yesterday will try today, check RISBI in am
   - Continue to pull off fluid with CVVH.
   - Extubate as soon as possible once volume status controlled.
   - Continue Nafcillin/levo/gentamicin per ID recs
   - Tried lasix
   .
   # Acute hepatitis
 patient with LFTs in the 1000s suspect  secondary
   to cardiogenic shock which continue to improve.
   - trend LFTs, improving
   - continue pressors to maintain adequate MAP
 wean today.
   - low dose Tylenol for fever
   .
   # Acute Kidney Injury: Unknown baseline.  Cr at OSH was 1.9.  On
   arrival patient with Cr 2.5 now trended up to 3.6, now improved on
   CVVH. No known h/o renal disease.  feNa < 1% on urine lytes. Etiology
   includes hypotension, poor forward flow in setting of heart failure,
   cardiogenic shock.  Renal was consulted and started CVVH in order to
   remove fluid.
   - continue CVVH for now.  Per renal plan to continue CVVH until UOP
   1000cc/day.
   - follow up daily renal recs
   - Renally dose meds
   - Avoid nephrotoxins
   .
   # CORONARIES: Patient has a history of CAD, 3VD on cath in [**8-31**].
   Recent NSTEMI in [**8-31**] in setting of acute GIB which was treated
   medically.  Now has significantly elevated biomarkers with associated
   EKG changes with a cath that demonstrates no evidence of acute infarct
   so likely that patient has global hypoperfusion in the setting of
   hypotension.  Stat bedside ECHO shows significantly depressed LV
   function, however did have severe global LV dysfunction on TTE on
   [**Month (only) **].  CK and MB trending up indicative of evolving MI, trop 3.88.
   Patient had balloon pump placed to increase coronary perfusion.
   - cont. ASA, statin, hep drip
   - hold beta blocker in the setting of hypotension
   - monitor on telemetry
   .
   # PUMP:  Has h/o dilated cardiomyopathy, likely ischemic given 3VD on
   cath.  Previous EF 25%. Bedside TTE suggests worsened global LV
   hypokinesis in setting of acute MI.  Had significant pulmonary edema
   requiring intubation.   - Monitor I/O with goal -100mL/hr with CVVH.
   - BB on hold given relative hypotension
   - cont aspirin, statin
   - ACE inhibitor on hold in the setting of hypotension and renal failure
   .
   # RHYTHM: Sinus rhythm, in the setting of respiratory distress patient
   developed sinus tachycardia to 130s
   - cont. tele, less ectopy.
   .
   # DM: On 3 oral medications at home.  Received contrast at OSH so
   holding metformin.  In setting of acute illness will hold all oral
   meds.  Patient has had has elevated fingersticks.  Started patient on
   long acting Lantus yesterday and increased sliding scale.  BGs 400
   today.
   - Will need to start insulin gtt for better BG control today with q1H
   finger sticks.
   - FS qid
   - HISS
   .
   # ANEMIA (CKD): Baseline appears to be in low 30s, was 31.6 in [**2186**].
   On procrit and iron as outpatient.  Hct slightly below baseline at 29.
   Given h/o recent GIB is at risk for rebleeding.  Repeated iron studies
   here with low iron 14 and elevated ferritin which suggests likely
   anemia of chronic disease rather than solely iron deficiency anemia.
   Patient got 1 unit of blood yesterday without appropriate bump in
   hematocrit.
   - Cont to follow [**Hospital1 **]
   - guaiac stools.  Negative so far.
   - Transfuse for HCT <25.
   .
   # Hyperlipidemia: On vytorin at home.  In setting of NSTEMI will start
   atorvastatin 80mg. On admission here HDL 36, LDL 56
   - cont atorvastatin
   .
   # Peripheral neuropathy: On gabapentin as outpatient.
   - Restart once stable
   .
   FEN:  OG tube placed yesterday, TFs at goal.
   ACCESS: PIV's x 3 (20g x 2, 18g x 1), L IJ HD line, R IJ.  Needs Aline
   placed.
   PROPHYLAXIS:  Hep gtt, PPI given intubated
   CODE: Full, confirmed with wife [**2-7**] (though pt would not want to be
   maintained on lifelong vent)
   CONTACT: Wife [**Name (NI) 4098**] [**Name (NI) 4099**] [**Telephone/Fax (1) 4100**] (H), [**Telephone/Fax (1) 4101**] (C)
   DISPO: CCU for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2190-2-9**] 04:37 PM
   Dialysis Catheter - [**2190-2-9**] 06:52 PM
   Arterial Line - [**2190-2-11**] 06:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2190-02-14 07:45:00 Physician Resident Progress Note
TITLE: CCU Resident Progress Note
   Chief Complaint: cardiogenic shock
   24 Hour Events:
   - renal recs: slow increase in UOP encouraging but not enough to stop
   RRT, plan to do uF 100-200 cc/hour and keep MAp > 60 with dopamine as
   needed: will plan to try to stop CVVH by monday and assess function:
   plan to stop heparin drip and may need citrate if clot occurs
   - abdominal ultrasound obtained demonstrates (prelim) No evidence of
   acute cholecystitis. Mildly distended gallbladder containing sludge, it
   can be seen in the prolonged fasting state. No intra- or extra-hepatic
   biliary ductal dilatation. Left pleural effusion. Borderline-sized
   spleen
   - filter clotted once patient was off IV heparin, was restarted with
   citrate
   - ID recs, check CBC with diff, cont to check for c. diff, if negative
   x3 then would d/c po flagyl, checked with pharmacy dosing for flagl on
   CVVH same, in addition, reccomended checking lipase, consider CT scan
   abdomen
   Allergies:
   Codeine
   Unknown;
   Last dose of Antibiotics:
   Gentamicin - [**2190-2-12**] 05:00 AM
   Levofloxacin - [**2190-2-13**] 08:30 PM
   Nafcillin - [**2190-2-14**] 06:10 AM
   Infusions:
   Fentanyl - 25 mcg/hour
   Midazolam (Versed) - 3 mg/hour
   Vasopressin - 2.4 units/hour
   Calcium Gluconate (CRRT) - 1.4 grams/hour
   Dopamine - 10 mcg/Kg/min
   Other ICU medications:
   Midazolam (Versed) - [**2190-2-13**] 08:30 AM
   Fentanyl - [**2190-2-13**] 01:00 PM
   Other medications:
   Changes to medical and family history: none
   Review of systems is unchanged from admission except as noted below
   Review of systems: as above
   Flowsheet Data as of  [**2190-2-14**] 07:43 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.2
   Tcurrent: 37.9
C (100.2
   HR: 83 (83 - 120) bpm
   BP: 96/54(69) {78/50(60) - 104/64(78)} mmHg
   RR: 18 (0 - 31) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 72 Inch
    CVP: 15 (12 - 16)mmHg
   Total In:
                                                                  4,378 mL
                                                                  2,663 mL
   PO:
   TF:
                                                                    354 mL
                                                                    226 mL
   IVF:
                                                                  3,923 mL
                                                                  2,377 mL
   Blood products:
   Total out:
                                                                  5,035 mL
                                                                  3,051 mL
   Urine:
                                                                    770 mL
                                                                    215 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -657 mL
                                                                   -388 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 600 (600 - 600) mL
   Vt (Spontaneous): 588 (588 - 588) mL
   PS : 15 cmH2O
   RR (Set): 16
   RR (Spontaneous): 5
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: RR >35
   PIP: 23 cmH2O
   Plateau: 22 cmH2O
   Compliance: 35.3 cmH2O/mL
   SpO2: 100%
   ABG: 7.41/33/113/19/-2
   Ve: 11.9 L/min
   PaO2 / FiO2: 283
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Lymphatic: Cervical WNL
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: bilaterally)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: No(t) Attentive, Follows simple commands, Responds to:
   Verbal stimuli, Movement: Not assessed, Sedated, Paralyzed, Tone: Not
   assessed
   Labs / Radiology
   134 K/uL
   9.0 g/dL
   307 mg/dL
   1.7 mg/dL
   19 mEq/L
   4.0 mEq/L
   28 mg/dL
   104 mEq/L
   134 mEq/L
   26.8 %
   32.3 K/uL
        [image002.jpg]
                             [**2190-2-13**]  02:12 AM
                             [**2190-2-13**]  03:26 AM
                             [**2190-2-13**]  03:54 AM
                             [**2190-2-13**]  09:35 AM
                             [**2190-2-13**]  09:56 AM
                             [**2190-2-13**]  03:33 PM
                             [**2190-2-13**]  03:49 PM
                             [**2190-2-13**]  11:03 PM
                             [**2190-2-14**]  03:38 AM
                             [**2190-2-14**]  03:51 AM
   WBC
   31.4
   32.3
   Hct
   26.9
   26.8
   Plt
   117
   134
   Cr
   1.5
   1.7
   TCO2
   20
   19
   20
   15
   19
   18
   22
   Glucose
   85
   198
   307
   Other labs: PT / PTT / INR:17.0/31.3/1.5, CK / CKMB /
   Troponin-T:1151/17/13.50, ALT / AST:309/53, Alk Phos / T Bili:147/3.6,
   Amylase / Lipase:114/137, Differential-Neuts:80.0 %, Band:5.0 %,
   Lymph:4.0 %, Mono:4.0 %, Eos:2.0 %, Lactic Acid:0.9 mmol/L, Albumin:2.5
   g/dL, LDH:491 IU/L, Ca++:8.0 mg/dL, Mg++:2.0 mg/dL, PO4:2.0 mg/dL
   Assessment and Plan
   67 y/o M with PMH of CAD s/p MI, DM, hyperlipidemia and recent fall who
   presents with nausea and vomiting and ongoing CP, found to have
   elevated CE and EKG changes without multivessel disease on cardiac
   catherization now with multifactorial shock.
   SEPSIS/BACTEREMIA:
   - On nafcillin for MSSA (monotherapy given TEE Neg endocarditis)
   - Began empiric treatment for C. diff with PO flagyl. Neg todate
   - RUQ showed sludge, no e/o acute chole
   - Will scan abd/pelvis with contrast today.
   - Continue daily surveillance blood cultures.  Follow micro data.
   - UCx Pending
   - most recent sputum cultures with yeast, however patient on ventilator
   so unclear what to make of this, continue daily sputums
   # COMMUNITY ACQUIRED PNEUMONIA: ID of moraxella, Treated with
   levofloxacin dosed renally, now completed course.
   # SHOCK: Patient is still persistently hypotensive requiring addition
   of vasopressin in addition to dopamine yesterday. Dopamine could not be
   titrated up furthur yesterday secondary to ectopy. Likely etiology is
   combination or cardiogenic shock (low cardiac output) as well as
   resolving septic shock (+ blood cultures, CAP). Patient previously on
   intraaortic balloon pump now off.
   - cont pressors for now, wean as tolerated to maintain MAPs > 60
   - Will still try and get fluid off to be able to wean off AC vent
   control; improve forward flow.
   - cont Nafcillin for TEE negative bacteremia, continue empiric
   treatment for c. diff with PO flagyl
   - f/u cultures
   - consider repeat echo in the future to reassess LV/RV function
   # RESPIRATORY FAILURE: Patient failed pressure support trial yesterday
   with HR increasing as well as BP dropping required additional pressor
   support with vasopressin. Last gas with adequate oxyugenation as well
   as low-normal CO2.  Think that respiratory failure likely from fluid
   overload in the setting of acute systolic heart failure. Yesterday was
   first day that CVVH had been successful in making patient negative.
   - cont to make patient negative goal -1 Liter
   - as patient improves hemodynamically continue pressure support/RISB
   trials
   .
   # ACUTE HEPATITIS: Improving from max of 1000s likely from shock liver
   in the setting of low cardiac output.
   - trend LFTS
   #  HYPERBILIRUBINEMIA: Does not appear to be hemolysis, concern for RUQ
   source of infection given elevated bili. Patient had RUQ yesterday
   which demonstrated no acute pathology some sludging.
   - cont to trend
   # ACUTE KIDNEY INJURY:
   - continue CVVH for now.  Per renal plan to continue CVVH until UOP
   1000cc/day.
   - follow up daily renal recs
   - Renally dose meds
   # RHYTHM: Ectopy, worse with increased doses of dopamin
   # DM: Switch back to insulin gtt
   # ANEMIA (CKD+Inflammation): Baseline appears to be in low 30s, was
   31.6 in [**2186**], and On procrit and iron as outpatient.  Hct slightly
   below baseline at 29.  Has a h/o recent GIB is at risk for rebleeding.
   - Stopped heparin yesterday
   - Crit is stable
   - would not transfuse this morning
   # PERIPHERAL EOSINOPHILIA: new today, absolute count 640. will follow,
   consider adrenal insufficiency, fungal process
   # HYPERLIPIDEMIA: On vytorin at home. Stopped statin given
   transaminitis.
   - consider restarting once improves clinically for long-term risk
   management
   # NEUROPATHY, PERIPHERAL: On gabapentin as outpatient, inactive issue,
   holding.
   FEN:  OG tube in place, TFs at goal.  Reglan for h/o gastroparesis.
   ACCESS: PIV's x 3 (20g x 2, 18g x 1), L IJ HD line, R IJ.  Aline in
   place.
   PROPHYLAXIS:  Hep subq, PPI given intubated.  No need for bowel regimen
   as patient with soft stools.
   CODE: Full, confirmed with wife [**2-7**] (though pt would not want to be
   maintained on lifelong vent)
   CONTACT: Wife [**Name (NI) 4098**] [**Name (NI) 4099**] [**Telephone/Fax (1) 4100**] (H), [**Telephone/Fax (1) 4101**] (C)
   DISPO: CCU for now
   .
   [**First Name8 (NamePattern2) 436**] [**Name6 (MD) 4290**] [**Name8 (MD) 437**], M.D. M.S.
   #[**Numeric Identifier 4291**]
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2190-2-13**] 10:30 AM 30 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2190-2-9**] 04:37 PM
   Dialysis Catheter - [**2190-2-9**] 06:52 PM
   Arterial Line - [**2190-2-11**] 06:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I would add the following remarks:
   History
   nothing to add, agree with above
   Physical Examination
   nothing to add, agree with above
   Medical Decision Making
   nothing to add, agree with above
   Above discussed extensively with family member, next of [**Doctor First Name **] or health
   care proxy.
   Total time spent on patient care: 50 minutes of critical care time.
   ------ Protected Section Addendum Entered By:[**Name (NI) 3213**] [**Name (NI) 862**]  on:[**2190-2-14**]
   09:36 ------

2190-02-15 06:07:00 Physician Resident Progress Note
TITLE: CCU Progress Note
   Chief Complaint:
   24 Hour Events:
   - Went to CT torso which showed no acute intraabdominal process or
   thigh/groin process but + for pleural effusion
   - Diagnostic tap of pleural effusion consistent with empyema with GPC
   - C/Sed CTsurg, who placed a chest tube to drain empyema. Noted that pt
   likely has old hemothorax from rib fx which became superinfected. Will
   need interval chest CT for f/u.
   - Reconciled medications
   - Restarted insulin drip
   - WBC improved O/N s/p tap to <30,000
   - Chest tube drained additional 150mL puss
 THORACENTESIS - At [**2190-2-14**] 06:25 PM
 CHEST TUBE PLACED - At [**2190-2-15**] 12:24 AM
   Allergies:
   Codeine
   Unknown;
   Last dose of Antibiotics:
   Levofloxacin - [**2190-2-13**] 08:30 PM
   Nafcillin - [**2190-2-14**] 10:10 PM
   Infusions:
   Vasopressin - 2.4 units/hour
   Insulin - Regular - 10 units/hour
   Midazolam (Versed) - 6 mg/hour
   Fentanyl - 50 mcg/hour
   Calcium Gluconate (CRRT) - 1.4 grams/hour
   Other ICU medications:
   Midazolam (Versed) - [**2190-2-14**] 09:30 AM
   Fentanyl - [**2190-2-14**] 10:30 AM
   Other medications:
   Changes to medical and family history: none
   Review of systems is unchanged from admission except as noted below
   Review of systems: unable to assess
   Flowsheet Data as of  [**2190-2-15**] 06:06 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.6
   Tcurrent: 37.7
C (99.8
   HR: 91 (78 - 106) bpm
   BP: 87/50(63) {80/48(60) - 115/64(79)} mmHg
   RR: 33 (18 - 33) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 72 Inch
    CVP: 13 (12 - 17)mmHg
   Total In:
                                                                  9,244 mL
                                                                  2,058 mL
   PO:
   TF:
                                                                    652 mL
                                                                    198 mL
   IVF:
                                                                  7,413 mL
                                                                  1,830 mL
   Blood products:
   Total out:
                                                                 13,219 mL
                                                                  2,823 mL
   Urine:
                                                                    680 mL
                                                                    125 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -3,975 mL
                                                                   -765 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 600 (600 - 600) mL
   Vt (Spontaneous): 462 (462 - 462) mL
   RR (Set): 16
   RR (Spontaneous): 4
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: RR >35
   PIP: 30 cmH2O
   Plateau: 26 cmH2O
   SpO2: 99%
   ABG: 7.43/36/140/21/0
   Ve: 11.2 L/min
   PaO2 / FiO2: 350
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Lymphatic: Cervical WNL
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: bilaterally). L chest tube in place drainining
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: No(t) Attentive, Follows simple commands, Responds to:
   Verbal stimuli, Movement: Not assessed, Sedated, Paralyzed, Tone: Not
   assessed
   Labs / Radiology
   149 K/uL
   8.6 g/dL
   80 mg/dL
   1.8 mg/dL
   21 mEq/L
   4.0 mEq/L
   23 mg/dL
   100 mEq/L
   135 mEq/L
   25.7 %
   28.1 K/uL
        [image002.jpg]
                             [**2190-2-13**]  11:03 PM
                             [**2190-2-14**]  03:38 AM
                             [**2190-2-14**]  03:51 AM
                             [**2190-2-14**]  10:18 AM
                             [**2190-2-14**]  10:51 AM
                             [**2190-2-14**]  05:06 PM
                             [**2190-2-14**]  05:29 PM
                             [**2190-2-15**]  01:14 AM
                             [**2190-2-15**]  04:46 AM
                             [**2190-2-15**]  05:03 AM
   WBC
   32.3
   28.1
   Hct
   26.8
   25.7
   Plt
   134
   149
   Cr
   1.7
   1.8
   1.8
   TCO2
   18
   22
   22
   23
   24
   25
   Glucose
   [**Telephone/Fax (3) 4324**]0
   Other labs: PT / PTT / INR:15.9/29.5/1.4, CK / CKMB /
   Troponin-T:1151/17/13.50, ALT / AST:242/54, Alk Phos / T Bili:133/2.7,
   Amylase / Lipase:101/78, Differential-Neuts:80.0 %, Band:5.0 %,
   Lymph:4.0 %, Mono:4.0 %, Eos:2.0 %, Lactic Acid:1.3 mmol/L, Albumin:2.5
   g/dL, LDH:493 IU/L, Ca++:7.7 mg/dL, Mg++:2.0 mg/dL, PO4:1.9 mg/dL
   Assessment and Plan
   67 y/o M with PMH of CAD s/p MI, DM, hyperlipidemia and recent fall who
   presents with nausea and vomiting and ongoing CP, found to have
   elevated CE and EKG changes without multivessel disease on cardiac
   catherization now with multifactorial shock.
   # SEPSIS/BACTEREMIA: Pt developed distributive shock in the context of
   like sepsis. Initially was improving then started to decline again.
   Ultimately found to have empyema.
   - ID following. Recs greatly appreciated.
   - restart Levoquin, f/u cultures as per ID
   - On nafcillin for MSSA (monotherapy given TEE Neg endocarditis)
   - Found to have rising WBC to > 30,000. CT on [**2-14**] showed pulmonary
   effusion. Diagnostic tap showed empyema and thoracics placed a chest
   tube
   - Began empiric treatment for C. diff with PO flagyl given risking WBC.
   Cdiff negative x1. Additional pending, continue flagyl until get
   additional negative c. diff
   - RUQ showed sludge, no e/o acute chole
   - Continue daily surveillance blood cultures.  Follow micro data.
   - most recent sputum cultures with yeast, however patient on ventilator
   so unclear what to make of this, continue daily sputums
   # EMPYEMA: Pt had rising WBC. Pleural effusion was noted to be very
   enlarged on CT on [**2-14**]. Diagnostic tap was consistent with empyema.
   Thoracic surgery placed a chest tube for further drainage. It was felt
   that the empyema was due to an old hemothorax from a recent rib
   fracture that became super infected during his MSSA bacteremia
   - Thoracics following. Recs greatly appreciated
   - ID following. Recs greatly appreciated
   - Final culture ID and [**Last Name (un) 206**]. pending
   - Chest tube to suction -20cm H2O for now
   - restart Levoquin as above
   # COMMUNITY ACQUIRED PNEUMONIA: ID of moraxella, Treated with
   levofloxacin dosed renally, now completed course however now that
   patient has
   # SHOCK: Patient is still persistently hypotensive requiring addition
   of vasopressin in addition to dopamine yesterday. Dopamine could not be
   titrated up furthur yesterday secondary to ectopy. Likely etiology is
   combination or cardiogenic shock (low cardiac output) as well as
   resolving septic shock (+ blood cultures, CAP). Patient previously on
   intraaortic balloon pump now off.
   - cont pressors for now, wean as tolerated to maintain MAPs > 60, wean
   as tolerated
   - cont Nafcillin for TEE negative bacteremia, continue empiric
   treatment for c. diff with PO flagyl for now await repeat c. diff
   culture
   - restart levoquin
   - f/u cultures
   - consider repeat echo in the future to reassess LV/RV function
   # RESPIRATORY FAILURE: Likely from fluid overload and infectious
   process with pneumonia and empyema above. Currently with chest tube
   placed by thorassic surgery.
   - plan to continue on the vent today given new chest tube without plan
   to wean settings
   - consider pressure support trial tomorrow
   - f/u thorassic recs regarding chest tube
   - goal even to -500 cc negative
   # ACUTE HEPATITIS: Improving from max of 1000s likely from shock liver
   in the setting of low cardiac output.
   - trend LFTS
   #  HYPERBILIRUBINEMIA: Does not appear to be hemolysis, concern for RUQ
   source of infection given elevated bili. Patient had RUQ yesterday
   which demonstrated no acute pathology some sludging.
   - cont to trend
   # ACUTE KIDNEY INJURY:
   - continue CVVH for now, will discuss plan with renal when to
   discontinue  .
   - Renally dose meds
   # RHYTHM: Ectopy improved with decreased doparmine drip
   # DM: insulin drip for tight glucose control
   # ANEMIA (CKD+Inflammation): Baseline appears to be in low 30s, was
   31.6 in [**2186**], and On procrit and iron as outpatient.  Hct slightly
   below baseline at 29.  Has a h/o recent GIB is at risk for rebleeding.
   - Off heparin drip now. SQ only
   - Crit is stable
   # PERIPHERAL EOSINOPHILIA: new today, absolute count 640. will follow,
   consider adrenal insufficiency, fungal process, drug reaction
   # HYPERLIPIDEMIA: On vytorin at home. Stopped statin given
   transaminitis.
   - consider restarting once improves clinically for long-term risk
   management
   # NEUROPATHY, PERIPHERAL: On gabapentin as outpatient, inactive issue,
   holding.
   FEN:  OG tube in place, TFs at goal.  Reglan for h/o gastroparesis.
   ACCESS: PIV's x 3 (20g x 2, 18g x 1), L IJ HD line, R IJ.  Aline in
   place.
   PROPHYLAXIS:  Hep subq, PPI given intubated.  Bowel regimen.
   CODE: Full, confirmed with wife [**2-7**] (though pt would not want to be
   maintained on lifelong vent)
   CONTACT: Wife [**Name (NI) 4098**] [**Name (NI) 4099**] [**Telephone/Fax (1) 4100**] (H), [**Telephone/Fax (1) 4101**] (C)
   DISPO: CCU for now
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2190-2-15**] 01:00 AM 40 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2190-2-9**] 04:37 PM
   Dialysis Catheter - [**2190-2-9**] 06:52 PM
   Arterial Line - [**2190-2-11**] 06:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   [**Name Initial (PRE) **] would add the following remarks:
   History
   Nothing to add, agree with above
   Physical Examination
   Nothing to add, agree with above
   Medical Decision Making
   Nothing to add, agree with above,
   broaden antibiotic coverage pending cutlure of pleural empyema
   Total time spent on patient care: 60 minutes of critical care time.
   ------ Protected Section Addendum Entered By:[**Name (NI) 3213**] [**Name (NI) 862**]  on:[**2190-2-15**]
   09:25 ------

2190-02-17 06:49:00 Physician Resident Progress Note
TITLE: CCU Resident Progress Note
   Chief Complaint: shock
   24 Hour Events:
   - ID recs: nafcillin 2 gram q 4 hours, stop vancomycin (all cultures
   negative for MSSA)
   - thoracic rec: nothing new (chest x-ray lung looks expanded on chest
   tube side, decreased flow out of chest tube)
   - Renal recs: none left
   - post- transfusion crit 26 after 2 units, wrote for additional unit
   - tried taking patient off vasopressin as was only on low dose of
   dopamine however then patient dropped pressure so placed patient back
   on vasopressin
   - d/c Flagyl as low prob for c. diff
   - no stool
   - chest x-ray: Right upper lobe has re-expanded. Small left pleural
   effusion is probably increasing, despite left pleural drain. Moderate
   cardiomegaly stable. ET tube and nasogastric tube in standard
   placements.
   .
 UNPLANNED LINE/CATHETER REMOVAL (PATIENT INITIATED) - At [**2190-2-17**]
   01:30 AM Pt shaking head, agitated. RN in room and at bedside to assess
   when witnessed dialysis line fell out Dressing still partially intact,
   pressure held. Renal fellow called and CCU resident notified and in at
   bedside. Per Renal fellow, dialysis line to be placed in am.
   Allergies:
   Codeine
   Unknown;
   Last dose of Antibiotics:
   Metronidazole - [**2190-2-16**] 02:00 AM
   Vancomycin - [**2190-2-16**] 12:00 PM
   Nafcillin - [**2190-2-17**] 04:00 AM
   Infusions:
   Vasopressin - 2.4 units/hour
   Fentanyl - 75 mcg/hour
   Dopamine - 4 mcg/Kg/min
   Insulin - Regular - 4 units/hour
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2190-2-16**] 09:00 AM
   Pantoprazole (Protonix) - [**2190-2-16**] 10:00 PM
   Heparin Sodium (Prophylaxis) - [**2190-2-17**] 12:00 AM
   Other medications:
   Changes to medical and family history: none
   Review of systems is unchanged from admission except as noted below
   Review of systems: unable to assess
   Flowsheet Data as of  [**2190-2-17**] 06:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.5
   Tcurrent: 37.5
C (99.5
   HR: 93 (73 - 105) bpm
   BP: 102/51(68) {88/44(60) - 141/71(95)} mmHg
   RR: 21 (16 - 28) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 94.3 kg (admission): 98 kg
   Height: 72 Inch
    CVP: 12 (7 - 12)mmHg
   Mixed Venous O2% Sat: 73 - 73
                                Total In:
                                                                  9,764 mL
                                                                  1,202 mL
   PO:
                                TF:
                                                                    788 mL
                                                                     26 mL
   IVF:
                                                                  7,739 mL
                                                                    864 mL
   Blood products:
                                                                  1,197 mL
                                                                    313 mL
   Total out:
                                                                  9,279 mL
                                                                    682 mL
   Urine:
                                                                  1,363 mL
                                                                    380 mL
   NG:
                                                                    350 mL
   Stool:
   Drains:
   Balance:
                                                                    485 mL
                                                                    520 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 600 (600 - 600) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 304
   PIP: 36 cmH2O
   Plateau: 24 cmH2O
   SpO2: 96%
   ABG: 7.44/38/63/25/1
   Ve: 6.5 L/min
   PaO2 / FiO2: 158
   Physical Examination
   General
 intubated, sedated, intermittently agitated
   Cards
 RRR, nl s1/s2, no m/r/g appreciated
   Pulm
 decreased BS at bases
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   113 K/uL
   9.7 g/dL
   83 mg/dL
   1.4 mg/dL
   25 mEq/L
   3.9 mEq/L
   20 mg/dL
   103 mEq/L
   136 mEq/L
   27.2 %
   17.1 K/uL
        [image002.jpg]
                             [**2190-2-16**]  04:18 AM
                             [**2190-2-16**]  10:20 AM
                             [**2190-2-16**]  10:24 AM
                             [**2190-2-16**]  10:41 AM
                             [**2190-2-16**]  03:04 PM
                             [**2190-2-16**]  07:03 PM
                             [**2190-2-17**]  01:38 AM
                             [**2190-2-17**]  02:09 AM
                             [**2190-2-17**]  03:59 AM
                             [**2190-2-17**]  04:13 AM
   WBC
   17.1
   17.7
   19.7
   17.1
   Hct
   23.6
   26.1
   29.0
   27.2
   Plt
   133
   110
   113
   113
   Cr
   1.7
   1.4
   1.4
   TCO2
   26
   25
   26
   27
   Glucose
   125
   145
   140
   102
   83
   Other labs: PT / PTT / INR:15.5/34.2/1.4, CK / CKMB /
   Troponin-T:77/2/5.90, ALT / AST:94/24, Alk Phos / T Bili:68/1.8,
   Amylase / Lipase:101/78, Differential-Neuts:88.0 %, Band:2.0 %,
   Lymph:2.0 %, Mono:4.0 %, Eos:0.0 %, Fibrinogen:563 mg/dL, Lactic
   Acid:0.8 mmol/L, Albumin:2.0 g/dL, LDH:337 IU/L, Ca++:7.8 mg/dL,
   Mg++:2.2 mg/dL, PO4:2.6 mg/dL
   Assessment and Plan
   67 y/o M with PMH of CAD s/p MI, DM, hyperlipidemia and recent fall who
   presents with nausea and vomiting and ongoing CP, found to have
   elevated CE and EKG changes in the setting of likely infected
   hemothorax which converted to empyema now with cardiogenic/septic
   shock.
   .
   # Cardiogeneic and Septic Shock: Patient is still persistently
   hypotensive requiring vasopressin and dopamine. Dopamine requirement
   has been variable over the past 24 hours. Likely etiology is
   combination or cardiogenic shock (low cardiac output) as well as septic
   shock (bacteremia and empyema) Patient previously on intraaortic
   balloon pump now off.
   - cont dopamine for now, wean as tolerated to maintain MAPs > 60.  d/c
   vasopressin.
   - treat sepsis/bacteremia as below
   - consider repeat echo in the future to reassess LV/RV function
   .
   # SEPSIS/BACTEREMIA: Pt developed distributive shock in the context of
   sepsis. Initially was improving then started to decline again. Found to
   have rising WBC to > 30,000. CT on [**2-14**] showed pulmonary effusion.
   Diagnostic tap showed empyema and thoracics placed a chest tube.
   Initially concern for c. diff infection given rising white count,
   however feel that less likely given that have other souce of infection
   so c. diff treatment d/c. Patient underwent abdominal ultrasound to
   look for intraabdominal source which demonstrated  no sludge, no acute
   cholecystitis.
   - ID following, f/u daily recs
   - On nafcillin for MSSA bacteremia (PA line cultures +).  Follow final
   sensitivities.
   - previously on vancomycin
   - surveillence cultures negative to date.
   .
   # EMPYEMA: Pt had rising WBC. Pleural effusion was noted to be very
   enlarged on CT on [**2-14**]. Diagnostic tap was consistent with empyema.
   Thoracic surgery placed a chest tube for further drainage. It was felt
   that the empyema was due to an old hemothorax from a recent rib
   fracture that became super infected during his MSSA bacteremia. Chest
   tube output drastically declined over the past 24 hours
   - Thoracics following, recs this morning to keep chest tube to suction
   (-20 cm H20 now).  ? water seal today vs TPA.  Likely will need OR in
   future.
   - ID following. reccomendations have been to continue nafcillin and d/c
   vanco
   - Final culture ID and [**Last Name (un) 206**]. pending
   - continue nafcillin
   .
   # RESPIRATORY FAILURE: Likely from fluid overload and infectious
   process with pneumonia and empyema above. Currently with chest tube
   placed by thoracic surgery.
   - continue to try to wean sedation and pressure support trial today.
   - f/u thoracic recs regarding chest tube
   - Try to use antipsychotics for agitation instead of versed in hope
   that BPs improved.
   .
   # ANEMIA : Pt with underlying anemia of chronic disease, now with
   decreasing HCT in setting on chest tube placement, also found to have
   guaiac + stools. Has a h/o recent GIB is at risk for rebleeding.
   - Trend HCT [**Hospital1 **]
 goal HCT >26-27
   - active type and cross
   .
   # ACUTE KIDNEY INJURY:  patient pulled out dialysis line yesterday
   evening. RN discussed with renal, plan to leave patient off of CVVH for
   now and discuss whether or not patient will need additional line
   placed. Patient making good urine especially when MAPs > 70.
   - Renally dose meds
   - Will follow UOP.  I/O goal today negative.  Will start Lasix initial
   bolus of 80mg x 1.   [**Month (only) 11**] need diuril for increased UOP.  Consider lasix
   gtt.
   .
   # Shock liver -  now resolved: Improving from max of 1000s likely from
   shock liver in the setting of low cardiac output.
   - trending down
   .
   #  HYPERBILIRUBINEMIA: Does not appear to be hemolysis, initially
   concern for RUQ source of infection given elevated bili but RUQ
   demonstrated no acute pathology some sludging.
   - cont to trend
   .
   # DM: insulin drip for tight glucose control
   .
   # HYPERLIPIDEMIA: On vytorin at home. Stopped statin given
   transaminitis.
   - consider restarting once improves clinically for long-term risk
   management
   .
   # NEUROPATHY, PERIPHERAL: On gabapentin as outpatient, inactive issue,
   holding.
   .
   # FEN:  OG tube in place, TFs at goal.  Reglan for h/o gastroparesis.
   Yesterday some concern that stomach needed decompression so placed OG
   tube to intermittent suction.
   -          abdominal x-ray to eval for acute pathology
   -          Ct scan of abdomen from [**2-14**] demonstrated no acute
   intraabdominal infection without evidence of ileus, if remains
   constipated would consider additional scan to rule out new ileus
   # ACCESS: PIV's x 3 (20g x 2, 18g x 1), R IJ.  Aline in place.  L IJ
   out.
    # PROPHYLAXIS:  Hep subq, PPI given intubated.  Bowel regimen.
   # CODE: Full, confirmed with wife [**2-7**] (though pt would not want to be
   maintained on lifelong vent), should consider discussion of code status
   again with wife in the next several days if patient does not improve
   furthur
   # CONTACT: Wife [**Name (NI) 4098**] [**Name (NI) 4099**] [**Telephone/Fax (1) 4100**] (H), [**Telephone/Fax (1) 4101**] (C)
   # DISPO: CCU while intubated
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2190-2-17**] 04:00 AM 10 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2190-2-9**] 04:37 PM
   Arterial Line - [**2190-2-11**] 06:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: